US06642390B2
1a. 2-(Azidomethyl)-tetrahydro-2H-pyran
A mixture of sodium azide (65 g, 1 mol), dimethylsulfoxide (800 ml), and 2-(bromomethyl)-tetrahydro-2H-pyran (89.5 g, 0.5 mol) is stirred at 50° C. for 12 hours. The reaction mixture is allowed cool to room temperature and then slowly poured into ice water. The reaction is extracted with ether (3×400 ml). The combined organic extracts are washed with water (500 ml) and then brine (500 ml), and dried over sodium sulfate. Removal of the volatiles in vacuo affords the pure title compound (62 g, 88%) as a colorless oil.

reactant | sodium azide | 1 mol, 65 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-(bromomethyl)-tetrahydro-2H-pyran | 0.5 mol, 89.5 g | BrCC1OCCCC1 | C6H11BrO
solvent | dimethylsulfoxide | 800 ml | CS(=O)C | C2H6OS
product | 2-(Azidomethyl)-tetrahydro-2H-pyran | 62 g, 88% | N(=[N+]=[N-])CC1OCCCC1 | C6H11N3O
